* test_slvt_04v_invx1_dc.cir — INVx1 SLVT DC VTC @ VDD=0.40V
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/asap5_inv_lib.sp'
.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5
.param vdd_val = 0.4
vdd vdd 0 dc {vdd_val}
vss vss 0 dc 0
vin in 0 dc 0
xinv in out vdd vss INVx1
cload out 0 1.0f
.DC vin 0 {vdd_val} 0.001
.PRINT DC V(in) V(out)
.MEASURE DC v_trip FIND V(in) WHEN V(out)={vdd_val/2}
.END
